US09447035B2
Step 5: Preparation of (S)-2-[4-[(3-[2-[2-[2-[2-[3-(2,5-dioxo-2,5-dihydropyrrol-1-yl)propionylamino]ethoxy]ethoxy]ethoxy]ethoxy]propionylamino)methyl]-2,6-difluorobenzoylamino]-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid:
The title compound was prepared using a similar procedure as described in Example 1, Step 11, starting from (S)-2-(4-aminomethyl-2,6-difluorobenzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid TFA salt (120 mg, 0.2 mmol), 3-[2-[2-[2-[2-[3-(2,5-dioxo-2,5-dihydro-pyrrol-1-yl)-propionylamino]ethoxy]ethoxy]ethoxy]ethoxy]propionic acid-2,5-dioxo-pyrrolidin-1-yl ester (103 mg, 0.2 mmol), and DIPEA (129 mg, 174 uL, 1.0 mmol), and after HPLC purification, resulted in a white solid (75 mg, 43%). ES(+)-HRMS m/e calcd. for C42H50F2N6O13 (M+Na)+ 907.3296, obsd. 907.3296.

reactant | (S)-2-(4-aminomethyl-2,6-difluorobenzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid TFA salt | 0.2 mmol, 120 mg | OC(=O)C(F)(F)F.NCC1=CC(=C(C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C=2C(N(C(N(C2C)C)=O)C)=O)C(=C1)F)F
reactant | 3-[2-[2-[2-[2-[3-(2,5-dioxo-2,5-dihydro-pyrrol-1-yl)-propionylamino]ethoxy]ethoxy]ethoxy]ethoxy]propionic acid-2,5-dioxo-pyrrolidin-1-yl ester | 0.2 mmol, 103 mg | O=C1N(C(CC1)=O)OC(CCOCCOCCOCCOCCNC(CCN1C(C=CC1=O)=O)=O)=O | C22H31N3O11
reactant | DIPEA | 1.0 mmol, 174 uL, 129 mg | CCN(C(C)C)C(C)C | C8H19N
product | (S)-2-[4-[(3-[2-[2-[2-[2-[3-(2,5-dioxo-2,5-dihydropyrrol-1-yl)propionylamino]ethoxy]ethoxy]ethoxy]ethoxy]propionylamino)methyl]-2,6-difluorobenzoylamino]-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid | O=C1N(C(C=C1)=O)CCC(=O)NCCOCCOCCOCCOCCC(=O)NCC1=CC(=C(C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C=2C(N(C(N(C2C)C)=O)C)=O)C(=C1)F)F | C42H50F2N6O13
